Name:  ___.         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
mefloquine
 
Attending: ___.
 
Chief Complaint:
Hematuria
 
Major Surgical or Invasive Procedure:
None this admission

 
History of Present Illness:
___ with hx of BPH, afib s/p ablation 1 wk ago (on ___ and 
ASA) with intraop foley placement and hematuria who presents 
with hematuria and clot retention.  

At time of exam, foley not draining well and pt with significant 
bladder pain.  At bedside, CBI clamped and 700cc of bloody urine 
aspirated from bladder via foley.  Subsequently, bladder was 
hand irrigated with removal of ~200cc clot burden, urine 
remained cherry red.  CBI restarted at brisk rate with urine 
alternating between light pink and cherry red.  

Given age and hx of BPH, most likely source of bleeding is from 
prostate trauma ___ foley placement 1 week ago, exacerbated in 
setting of starting ___ and ASA.  However, once this episode 
resolves, pt should f/u wit Urology to r/o other causes of 
hematuria, including bladder tumors or stones.  At present, pt 
will need admission to Urology for CBI.

 
Past Medical History:
Afib
HLD
BPH    
 
Social History:
___
___:
Noncontributory
 
Physical Exam:
A&Ox3
Breathing comfortably on RA
WWP
Abd S/ND/NT
Ambulating independently

 
Pertinent Results:
___ 09:05AM BLOOD WBC-8.2 RBC-2.52* Hgb-7.7* Hct-23.4* 
MCV-93 MCH-30.6 MCHC-32.9 RDW-14.7 RDWSD-49.3* Plt ___
___ 09:05AM BLOOD Plt ___
___ 06:55AM BLOOD Glucose-132* UreaN-15 Creat-0.7 Na-136 
K-3.5 Cl-104 HCO3-26 AnGap-10
 
Brief Hospital Course:
Pt was admitted from ED to Urology service in stable condition.  
Per pt's cardiologist Dr. ___ was held and ASA 
increased to 325.  CBI was continued.  On HD2, HCT was 20.6 from 
33 at time of admission, and pt complained of lightheadedness.  
Hence, pt was transfused 2U pRBC with appropriate HCT bump.  On 
HD4, given persistent hematuria requiring CBI, a CTU was 
performed, which demonstrated clot within foley lumen and 
bladder (irrigated out), but no other pathology to explain 
ongoing hematuria.  By end of HD4, hematuria began to resolve 
with light clear urine on slow CBI.  Overnight on HD4, pt spiked 
fever to 102.6 and fever workup was performed.  On HD5, pt 
passed clamp trial and foley was removed.  Pt voided without 
issue.  Given urine culture growing GNRs, pt was started on PO 
Bactrim (7d course), and discharged in stable condition on HD6, 
voiding and ambulating independently.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Apixaban 30 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
3.  Finasteride 5 mg PO DAILY 
RX *finasteride 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
4.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth q4h prn 
Disp #*15 Tablet Refills:*0 
5.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*14 Tablet Refills:*0 
6.  Aspirin 325 mg PO DAILY  
7.  Atorvastatin 20 mg PO QPM  
8.  Omeprazole 20 mg PO DAILY  
9. HELD- Apixaban 30 mg PO BID  This medication was held. Do not 
restart Apixaban until 1 week after discharge if urine remains 
clear

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  

-If prescribed; complete the full course of antibiotics.

- AVOID STRAINING for bowel movements as this may stir up 
bleeding.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

-Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity for a minimum of 
four weeks or until you are cleared by your Urologist in 
follow-up

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthrough pain >4. 
Replace Tylenol with narcotic pain medication.

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery. Also, if the Foley catheter and Leg 
Bag are in place--Do NOT drive (you may be a passenger).

 
Followup Instructions:
___